US06894061B2
5-Bromo-4′-fluoro-1,1′-biphenyl-2-ylamine was prepared from the above intermediate, 4-bromo-2-iodoaniline (12.6 g, 42.2 mmol), 4-fluorophenylboronic acid (5.9 g, 42 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (0.69 g, 0.84 mmol), and a 5 N aqueous sodium hydroxide solution (85 mL, 425 mmol) according to the procedure and in the same manner as described in Example 32, Method A, Step a.

reactant | 4-bromo-2-iodoaniline | 42.2 mmol, 12.6 g | BrC1=CC(=C(N)C=C1)I | C6H5BrIN
reactant | 4-fluorophenylboronic acid | 42 mmol, 5.9 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | dichloromethane | 0.84 mmol, 0.69 g | ClCCl | CH2Cl2
reactant | sodium hydroxide | 425 mmol, 5 N, 85 mL | [OH-].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Bromo-4′-fluoro-1,1′-biphenyl-2-ylamine | BrC=1C=CC(=C(C1)C1=CC=C(C=C1)F)N | C12H9BrFN
